US06291452B1
A mixture of (3RS)-3-benzyloxycarbonylamino-1-[(3-azabicyclo[3.2.2]non-3-yl)-carbonylmethyl]-5-ethyl-2,3-dihydro-9-methyl-1H-1,4-benzodiazepin-2-one (1.23 g), 10% palladium on carbon (50% wet, 250 mg) and ammonium formate (600 mg) in ethanol (15 ml) was stirred at room temperature for 1 hour. The catalyst was filtered off and the filtrate was evaporated in vacuo to afford a residue, which was dissolved in ethyl acetate and washed with saturated aqueous sodium bicarbonate, water and brine successively. After drying over sodium sulfate, the solvent was evaporated in vacuo to afford a residue, which was triturated in diisopropyl ether and collected by filtration to give (3RS)-3-amino-1-[(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl]-5-ethyl-2,3-dihydro-9-methyl-1H-1,4-benzodiazepin-2-one (792 mg, 87.0% yield) as a crystalline powder.

reactant | (3RS)-3-benzyloxycarbonylamino-1-[(3-azabicyclo[3.2.2]non-3-yl)-carbonylmethyl]-5-ethyl-2,3-dihydro-9-methyl-1H-1,4-benzodiazepin-2-one | 1.23 g | C(C1=CC=CC=C1)OC(=O)NC1C(N(C2=C(C(=N1)CC)C=CC=C2C)CC(=O)N2CC1CCC(C2)CC1)=O | C30H36N4O4
reactant | ammonium formate | 600 mg | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3RS)-3-amino-1-[(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl]-5-ethyl-2,3-dihydro-9-methyl-1H-1,4-benzodiazepin-2-one | 792 mg, 87.0% yield | NC1C(N(C2=C(C(=N1)CC)C=CC=C2C)CC(=O)N2CC1CCC(C2)CC1)=O | C22H30N4O2
